US06002008
4-(4-Chloro-2-fluoro-5-hydroxy-phenylamino)-7-(2-dimethylamino-ethoxy)-6-methoxy-quinoline-3-carbonitrile
A mixture of 0.8 g (1.83 mmol) of 4-(4-chloro-2-fluoro-5-hydroxy-phenylamino)-7-(2-chloro-ethoxy)-6-methoxy-quinoline-3-carbonitrile and 0.11 g of sodium iodide in 16.1 ml of 2M dimethylamine in tetrahydrofuran was placed in a sealed tube and heated to 135° C. for 14 hr. The solvent was removed and the residue was mixed with warm ethyl acetate and saturated sodium bicarbonate solution. The organic layer was separated and dried over magnesium sulfate. Solvent was removed and the residue was chromatographed on silica gel eluting with ethyl acetate-methanol-triethylamine 60:40:3 giving 0.41 g of the title compound as a tan solid: mass spectrum (electrospray, m/e) M+H 430.9; (M+2H)+2 216.0.

reactant | 4-(4-chloro-2-fluoro-5-hydroxy-phenylamino)-7-(2-chloro-ethoxy)-6-methoxy-quinoline-3-carbonitrile | 1.83 mmol, 0.8 g | ClC1=CC(=C(C=C1O)NC1=C(C=NC2=CC(=C(C=C12)OC)OCCCl)C#N)F | C19H14Cl2FN3O3
reactant | sodium iodide | 0.11 g | [I-].[Na+]
reactant | dimethylamine | 2M, 16.1 ml | CNC | C2H7N
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | 4-(4-Chloro-2-fluoro-5-hydroxy-phenylamino)-7-(2-dimethylamino-ethoxy)-6-methoxy-quinoline-3-carbonitrile | ClC1=CC(=C(C=C1O)NC1=C(C=NC2=CC(=C(C=C12)OC)OCCN(C)C)C#N)F | C21H20ClFN4O3
